US04886800
e. N-(2-Butylphenyl)acetamide
A suspension of 10% (w/w) palladium on carbon (7.8 g, wet with an additional 50% by weight of water) in absolute ethanol (625 ml) containing N-[2-(1-hydroxybutyl)phenyl]acetamide (156 g) was prepared, and concentrated hydrochloric acid (3.2 ml) was added. The mixture was shaken under a positive pressure of about 345,000 Pascals (50 pounds per square inch gauge reading) of hydrogen gas. When hydrogen uptake had ceased (in about 24 hours), the mixture was filtered through diatomaceous earth, and the filtrate was concentrated at reduced pressure to afford 135.3 grams (94% yield) of the title compound as a white solid, m.p. 96.5°-99.5°. This material was used in step (f) without further purification.

reactant | water | O | H2O
reactant | N-[2-(1-hydroxybutyl)phenyl]acetamide | 156 g | OC(CCC)C1=C(C=CC=C1)NC(C)=O | C12H17NO2
reactant | hydrochloric acid | 3.2 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 625 ml | C(C)O | C2H6O
product | N-(2-Butylphenyl)acetamide | 135.3 grams, 94% yield | C(CCC)C1=C(C=CC=C1)NC(C)=O | C12H17NO
